US04017522
N-methyl-N-(2-benzoyloxyethyl)oleamide
N-methyl-N-(2-benzoyloxyethyl)oleamide was prepared by the procedure of example 1 from 34 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)oleamide and 14 gms. (0.1 mole) of benzoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)oleamide | 0.1 mole | CN(C(CCCCCCC\C=C/CCCCCCCC)=O)CCO | C21H41NO2
reactant | benzoyl chloride | 0.1 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-methyl-N-(2-benzoyloxyethyl)oleamide | CN(C(CCCCCCC\C=C/CCCCCCCC)=O)CCOC(C1=CC=CC=C1)=O | C28H45NO3
